* C:\Users\Kostas\Documents\GitHub\tube_screamer\tube_screamer_backup.asc
Q1 V9P0 N013 Vbuf 0 2SC4081
R1 Vbuf 0 10k
R2 V4P5 N013 510k
R3 N013 N012 1k
C1 N012 N011 0.02µ
C2 N015 Vbuf 1µ
V1 V4P5 0 4.5 Rser=0
V2 V9P0 0 9 Rser=0
V3 N011 0 AC 0.1
R4 V4P5 N015 10k
C4 Vclip N007 51p
D1 Vclip N007 1N4148
D2 N007 Vclip 1N4148
R5 N001 N007 51k
R6 N010 0 4.7k
C5 N007 N010 0.047µ
R7 Vclip N001 {Rgain}
XU2 N015 N007 V9P0 0 Vclip LT1213
R8 N002 Vclip 1k
C3 N002 0 0.22µ
R9 V4P5 N002 10k
XU1 N002 N004 V9P0 0 N009 LT1213
R10 N009 N004 1k
C6 N003 N006 0.22µ
R11 N006 0 220
R12 N003 N002 {20k - Rtone + 1}
C7 N009 N008 1µF
R14 N008 N005 1k
R15 Vlevel N005 {100k - Rlevel + 1}
R16 V4P5 Vlevel {Rlevel+1}
Q2 V9P0 N014 Vout 0 2SC4081
R17 Vout 0 10k
R18 V4P5 N014 510k
C8 N014 Vlevel 1µ
R19 V4P5 Vlevel 510k
R20 N004 N003 {Rtone + 1}
.model D D
.lib C:\Users\Kostas\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Kostas\Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac oct 100 10 20k
* Input Buffer
* Clipping Stage
* NOTE: R7 is Drive pot (1-500k, log)
.param Rgain=200k
.step param Rtone list 1k 2k 5k 10k 12k 15k 20k
* Tone/Volume Stage
* NOTE: R13 is tone pot (1-20k, linear)
.param Rtone=1k
* NOTE: R15 is level pot (1-100k, log)
.param Rlevel=100k
* Output Buffer
* NOTE: There are three simulations available for this circuit: gain, tone, and level. Gain \nand tone are likely the most interesting, as level is just changing the output voltage \nmagnitude. You can select which simulation to run by selecting this text box, copying \nthe sim statement from this note, and pasting it into the sim directive below. (The sim \ndirective is the black text below the blue note text.)\nGAIN SIM:\n.step param Rgain list 1k 5k 10k 50k 100k 500k\nTONE SIM:\n.step param Rtone list 1k 2k 5k 10k 12k 15k 20k\nLEVEL SIM:\n.step param Rlevel list 1k 2k 5k 10k 20k 50k 100k
.lib LTC.lib
.backanno
.end
